US09340538B2
Step D: 3-(4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-2-yl)propanoic acid
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.7 g, 1.4 mmol) was reacted with 3-(morpholin-2-yl)propanoic acid (0.22 g, 1.4 mmol) according to the procedure as described in Example 28 to give the title compound as a yellow solid (0.40 g, 50%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.4 mmol, 0.7 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC=CN1 | C17H14Br2FN3O2S
reactant | 3-(morpholin-2-yl)propanoic acid | 1.4 mmol, 0.22 g | N1CC(OCC1)CCC(=O)O | C7H13NO3
product | 3-(4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-2-yl)propanoic acid | 0.40 g, 50% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1CC(OCC1)CCC(=O)O)C(=O)OCC | C24H26BrFN4O5S
